US07939526B2
To a solution of cyclobutanone (10.0 g, 143 mmol) and nitromethane (12 mL) in ethanol (10 mL) was added sodium ethoxide in ethanol (2.67 M, 2.7 mL, 7.2 mmol). The mixture was stirred for 6 days at room temperature. Water was added and the mixture was extracted with ethyl acetate (3×). The organic phases were combined, washed with water and brine, dried over Na2SO4, filtered, and concentrated. The volatiles were removed by distillation under vacuum to provide 8.51 g of 1-(nitromethyl)cyclobutanol as a yellow liquid.

reactant | cyclobutanone | 143 mmol, 10.0 g | C1(CCC1)=O | C4H6O
reactant | nitromethane | 12 mL | [N+](=O)([O-])C | CH3NO2
reactant | sodium ethoxide | [O-]CC.[Na+]
reactant | Water | O | H2O
solvent | ethanol | 10 mL | C(C)O | C2H6O
solvent | ethanol | 7.2 mmol, 2.67 M, 2.7 mL | C(C)O | C2H6O
product | 1-(nitromethyl)cyclobutanol | 8.51 g | [N+](=O)([O-])CC1(CCC1)O | C5H9NO3
